US07304064B2
1-{[1-(Cyclohexylmethyl)-7-(2-fluoroethoxy)-1H-indol-3-yl]carbonyl}-4-ethylpiperazine
Sodium hydride (60% dispersion in mineral oil, 65 mg, 1.62 mmol) was added portionwise with stirring under a stream of nitrogen to a solution of 4-{[1-(cyclohexylmethyl)-7-hydroxy-1H-indole-3-yl]carbonyl}-1-ethylpiperazine (200 mg, 0.54 mmol) in dimethylformamide (5 ml). After 30 minutes, 1-bromo-2-fluoroethane (49 μl, 0.65 mmol) was added. The mixture was heated to 60° C. with stirring for 48 hours. The reaction was quenched with 2-propanol (10 ml) and then concentrated. The resulting brown gum was partitioned between dichloromethane (50 ml) and 5% sodium hydrogen carbonate solution (50 ml). The organic layer was washed with water (50 ml), dried over sodium sulfate and concentrated. The crude intermediate was purified by flash chromatography using 95% dichloromethane, 5% methanol as eluent to afford the title compound (54 mg, 0.1 mmol). 1H NMR (400 MHz, CD3OD) δH 1.05 (2H, m), 1.19 (3H, m), 1.39 (3H, t, J 7.5), 1.56 (2H, m), 1.69 (3H, m), 1.92 (1H, m), 2.48 (2H, q, J 7.0), 2.53 (4H, m), 3.75 (4H, t, J 5.0), 4.26 (2H, d, J 7.5), 4.32 (1H, m), 4.39 (1H, m), 4.75 (1H, m), 4.87 (1H, m), 6.73 (1H, d, J 8.0), 7.06 (1H, t, J 8.0), 7.26 (1H, d, J 8.0), 7.44 (1H, s); EIMS: m/z=416.2 [M+H]+.

reactant | Sodium hydride | 1.62 mmol, 65 mg | [H-].[Na+]
reactant | 4-{[1-(cyclohexylmethyl)-7-hydroxy-1H-indole-3-yl]carbonyl}-1-ethylpiperazine | 0.54 mmol, 200 mg | C1(CCCCC1)CN1C=C(C2=CC=CC(=C12)O)C(=O)N1CCN(CC1)CC | C22H31N3O2
reactant | 1-bromo-2-fluoroethane | 0.65 mmol, 49 μl | BrCCF | C2H4BrF
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 1-{[1-(Cyclohexylmethyl)-7-(2-fluoroethoxy)-1H-indol-3-yl]carbonyl}-4-ethylpiperazine | 0.1 mmol, 54 mg | C1(CCCCC1)CN1C=C(C2=CC=CC(=C12)OCCF)C(=O)N1CCN(CC1)CC | C24H34FN3O2
